datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc(C(O)C[NH:10]C(C)CC2=C(C)C(C)(C)CC2)cc1.O=C([O-])CCc1nc2ccccc2[n:21]1[H:20]>>COc1ccc(C(O)C[NH+:10](C(C)CC2=C(C)C(C)(C)CC2)[H:20])cc1.O=C([O-])CCc1nc2ccccc2[n-:21]1 10=20;20,21=21",
"CC1=[N:10]CCc2c1[nH]c1ccccc21.[NH3+]C(CCC(=O)O)C(=O)[O:21][H:20]>>CC1=[N+:10]([H:20])CCc2c1[nH]c1ccccc21.[NH3+]C(CCC(=O)O)C(=O)[O-:21] 10=20;20,21=21",
"N#Cc1ccc(-c2nnn[n-:10]2)cc1.c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n+:21]([H:20])c23)cc1>>N#Cc1ccc(-c2nnn[n:10]2[H:20])cc1.c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n:21]c23)cc1 10=20;20,21=21",
"Nc1ccc(Cc2ccc([NH2+:21][H:20])cc2)cc1.O=S(=O)([O-])c1ccc([O-:10])cc1>>Nc1ccc(Cc2ccc([NH2:21])cc2)cc1.O=S(=O)([O-])c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1ccccc1Cl.Nc1nc(N(CCO)CCO)nc(N(CCO)CCO)[n:10]1>>Cc1ccccc1/C(=N\CCC[N:21](C)C)c1ccccc1Cl.Nc1nc(N(CCO)CCO)nc(N(CCO)CCO)[n+:10]1[H:20] 10=20;20,21=21",
"CCCC[NH+:21](CC(=O)c1ccc(O)cc1)[H:20].O=C([C@H]1CC[C@@H](O)CC1)[O-:10]>>CCCC[NH:21]CC(=O)c1ccc(O)cc1.O=C([C@H]1CC[C@@H](O)CC1)[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1cc(C2CCC[NH2+]2)nc(C2CCC[NH:10]2)c1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1cc(C2CCC[NH2+]2)nc(C2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"C#CC[NH2+:21][H:20].CCCCNc1nc[n:10]c2c1cnn2C>>C#CC[NH2:21].CCCCNc1nc[n+:10]([H:20])c2c1cnn2C 10=20;20,21=21",
"COc1cccc(OC)c1-c1nc2c[n:10]ccc2[nH]1.C[NH+:21](CCc1ccc(O)c(O)c1)[H:20]>>COc1cccc(OC)c1-c1nc2c[n+:10]([H:20])ccc2[nH]1.C[NH:21]CCc1ccc(O)c(O)c1 10=20;20,21=21",
"CCCCc1cc(Cl)cc(Cl)c1[O:21][H:20].c1cc2cc([O-:10])ccc2nn1>>CCCCc1cc(Cl)cc(Cl)c1[O-:21].c1cc2cc([O:10][H:20])ccc2nn1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].c1ccc(CC2CCC[NH:10]2)cc1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].c1ccc(CC2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"Nc1cc2ccccc2c[n:10]1.O=C(O)[C@H]1O[C@@H]1C(=O)[O:21][H:20]>>Nc1cc2ccccc2c[n+:10]1[H:20].O=C(O)[C@H]1O[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"Cc1cc(C)c([O-:10])c(C(C)C)c1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1cc(C)c([O:10][H:20])c(C(C)C)c1.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].ClCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(O)[C@@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(=O)O.O=[N+]([O-])c1cc(Cl)c([O-:10])c(Cl)c1>>CC(O)[C@@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(=O)O.O=[N+]([O-])c1cc(Cl)c([O:10][H:20])c(Cl)c1 10=20;20,21=21",
"C(C1c2ccccc2-c2ccccc21)=[O:10].c1ccc2[nH][n+:21]([H:20])cc2c1>>C(C1c2ccccc2-c2ccccc21)=[O+:10][H:20].c1ccc2[nH][n:21]cc2c1 10=20;20,21=21",
"CC(=O)[N-:10]c1nnc(c2ccccc2)s1.CN[N+:21](C)(C)[H:20]>>CC(=O)[N:10](c1nnc(c2ccccc2)s1)[H:20].CN[N:21](C)C 10=20;20,21=21",
"C[Si](C)(C)CC[NH2+:21][H:20].O=S(=O)(c1ccc(O)cc1)[N-:10]c1ncccn1>>C[Si](C)(C)CC[NH2:21].O=S(=O)(c1ccc(O)cc1)[N:10](c1ncccn1)[H:20] 10=20;20,21=21",
"CCC(=O)OCC[N:10](C)C.O=C(c1ccccc1-c1ccccc1)[O:21][H:20]>>CCC(=O)OCC[N+:10](C)(C)[H:20].O=C(c1ccccc1-c1ccccc1)[O-:21] 10=20;20,21=21",
"C[N:10]1CCN(C(c2ccccc2)c2ccccc2)CC1.Nc1ccc([O:21][H:20])cc1[O-]>>C[N+:10]1([H:20])CCN(C(c2ccccc2)c2ccccc2)CC1.Nc1ccc([O-:21])cc1[O-] 10=20;20,21=21",
"O=C1O[C@@H]([C@@H](O)CO)C([O-])=C1[O-:10].O=S(=O)([O-])c1cc([O:21][H:20])cc2[nH]ncc12>>O=C1O[C@@H]([C@@H](O)CO)C([O-])=C1[O:10][H:20].O=S(=O)([O-])c1cc([O-:21])cc2[nH]ncc12 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH:10]1.COc1ccc(C(=O)[O:21][H:20])cc1C>>CC1(C)CCCC(C)(C)[NH+:10]1[H:20].COc1ccc(C(=O)[O-:21])cc1C 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1n[nH]c2c(NCc3ccco3)nc[n+:21]([H:20])c12.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2:10]>>Cc1n[nH]c2c(NCc3ccco3)nc[n:21]c12.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O:21][H:20])ccc21.O=[N+]([O-])[N-]c1nc[n-:10]n1>>N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O-:21])ccc21.O=[N+]([O-])[N-]c1nc[n:10]([H:20])n1 10=20;20,21=21",
"CC(=O)/C(C)=N/[O:21][H:20].COC(=O)CC(=N[O-])/C(C)=N/[O-:10]>>CC(=O)/C(C)=N/[O-:21].COC(=O)CC(=N[O-])/C(C)=N/[O:10][H:20] 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1(C)CC(NCCO)CC(C)(C)[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1cnc[nH+]c1[O:21][H:20].O=C(c1cncs1)[O-:10]>>COc1cnc[nH+]c1[O-:21].O=C(c1cncs1)[O:10][H:20] 10=20;20,21=21",
"CCCOc1ccc(C(=O)[O:21][H:20])cc1.N#Cc1ccccc1-c1nnn[n-:10]1>>CCCOc1ccc(C(=O)[O-:21])cc1.N#Cc1ccccc1-c1nnn[n:10]1[H:20] 10=20;20,21=21",
"N#Cc1cc[n+:21]([H:20])cc1.[O-]c1ccccc1C1=[N:10]CCN1>>N#Cc1cc[n:21]cc1.[O-]c1ccccc1C1=[N+:10]([H:20])CCN1 10=20;20,21=21",
"CCCCC=[N+]([O-])[O-:10].CCCC[NH2+]CC[NH+:21](CCCC)[H:20]>>CCCCC=[N+]([O-])[O:10][H:20].CCCC[NH2+]CC[NH:21]CCCC 10=20;20,21=21",
